*****************************************************************
* NXP PSMN3R5_30LL
*
* Polarity N-Channel
* Ratings 30V/3.60E-03OHMS/15A
*
* Date Created Wed Jul 28 03:53:51 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN3R5_30LL DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 1500000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00204639986527959 TC=0.00467432605431912,2.03072624273354e-05
RBD 9 4 0.00117622771623174 TC=0.00467432605431912,2.03072624273354e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 20000000000
CGS 2 6 1.85e-09
RG 1 2 2.37663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	2239
+ -5	2224
+ -2	1840
+ -1	1433
+ -0.5	1147
+ -0.2	972
+ -0.1	914
+ 0	756
+ 0.1	638
+ 0.2	634
+ 0.5	593
+ 1	429
+ 2	324
+ 5	245
+ 10	201
+ 12	192
+ 15	182


.MODEL MINT NMOS(Vto=2.28 Kp=2.3e+02 Nfs=500000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=35.00 Ibv=2.50E-04 Rs=1E-6 Is=1.4944085841108e-12
+ N=1 M=0.61 VJ=0.99 Fc=0.5 Cjo=1.158e-09 Tt=3.441e-08)

.ENDS